US07105671B2
A solution of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-3-yl)-propionic acid methyl ester (729 mg, 2.10 mmol) in ethanol (20 mL) was treated with a solution of potassium hydroxide (694 mg, 10.51 mmol) in water (7 mL). The reaction was stirred for 3 h at 25° C., concentrated in vacuo to remove the ethanol, and then was acidified to pH=2 with a 1N aqueous hydrochloric acid solution. The resulting mixture was then extracted with methylene chloride (3×10 mL). The organic layers were dried over sodium sulfate, filtered, and concentrated in vacuo to afford 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-3-yl)-propionic acid (654 mg, 94%) as a white foam: (ES)+-HRMS m/e calcd for C14H17ClO5S (M+Na)+ 355.0377, found 355.0382.

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-3-yl)-propionic acid methyl ester | 2.10 mmol, 729 mg | COC(C(CC1COCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C15H19ClO5S
reactant | potassium hydroxide | 10.51 mmol, 694 mg | [OH-].[K+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 7 mL | O | H2O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-(tetrahydro-furan-3-yl)-propionic acid | 654 mg, 94% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1COCC1 | C14H17ClO5S
